US08461181B2
Into a mixture of 17.3 g of N-methyl(5-trifluoromethylpyridin-2-yl)-amine and 100 ml of sulfuric acid was dropped 12.3 g of nitric acid, then, the mixture was stirred for 2 hours while heating at 80° C. After cooling down to room temperature, water was poured into the reaction mixture, and the deposited precipitate was filtrated, then, washed with water, then, dried under reduced pressure to obtain 18.8 g of N-methyl(3-nitro-5-trifluoromethylpyridin-2-yl)-amine.

reactant | N-methyl(5-trifluoromethylpyridin-2-yl)-amine | 17.3 g | CNC1=NC=C(C=C1)C(F)(F)F | C7H7F3N2
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 12.3 g | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | N-methyl(3-nitro-5-trifluoromethylpyridin-2-yl)-amine | 18.8 g | CNC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C7H6F3N3O2
